US07795283B2
Methyl chloro(oxo)acetate (1.77 mL) was added to a stirred solution of (3-phenoxypropyl)amine hydrochloride (3000 mg) and pyridine (2.98 mL) in DCM (100 mL) at 0° C. After the addition was complete the solution was allowed to warm to ambient temperature and stirred for 16 hours. Water (50 mL) was added and the mixture was extracted with DCM (2×75 mL). The organic extracts were combined, washed with brine (50 mL), dried and concentrated in vacuo to give an oil. This was purified by flash chromatography on a 90 g Biotage™ silica column using a gradient of 10-60% EtOAc in hexane as the eluent to give methyl oxo[(3-phenoxypropyl)amino]acetate (3212 mg) as a solid; 1H NMR δ (CDCl3) 7.60 (1H, bs), 7.28 (2H+CHCl3, m), 6.94 (3H, m), 4.07 (2H, t), 3.90 (3H, s), 3.58 (2H, quartet), 2.08 (2H, m), +0.1 mole of EtOAc; MS m/e MH+ 238.

reactant | Methyl chloro(oxo)acetate | 1.77 mL | ClC(C(=O)OC)=O | C3H3ClO3
reactant | (3-phenoxypropyl)amine hydrochloride | 3000 mg | Cl.O(C1=CC=CC=C1)CCCN
reactant | pyridine | 2.98 mL | N1=CC=CC=C1 | C5H5N
reactant | Water | 50 mL | O | H2O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl oxo[(3-phenoxypropyl)amino]acetate | 3212 mg | O=C(C(=O)OC)NCCCOC1=CC=CC=C1 | C12H15NO4
